US07592477B2
Step a) Preparation of N-methoxy-N-methyl-4-(trifluoromethyl)benzamide
To a cold (0° C.) solution of N,O-dimethylhydroxylamine hydrochloride (2.5 g, 25.6 mmol) and 4-(trifluoromethyl)benzoyl chloride (prepared by refluxing a solution of 4-(trifluoromethyl)benzoic acid in SOCl2, 4.86 g, 23.3 mmol) in DCM (50 mL) was added dropwise pyridine (4.06 g, 51.26 mmol). The reaction mixture was stirred overnight and evaporated. The residue was dissolved in a mixture of DCM/Et2O (1/1) (45 mL) and brine (45 mL) was added. The aqueous layer was separated and extracted twice with DCM/Et2O (1/1) (45 mL). The combined organic layers were washed with brine (45 mL), dried over MgSO4, filtered and concentrated under vacuum to give the title compound as a yellow oil (4.88 g, 90%). 1H NMR (CDCl3, 300 MHz) δ 7.90-7.70 (m, 2H), 7.76-7.60 (m, 2H), 3.65-3.45 (m, 3H), 3.43-3.33 (m, 3H). HPLC (Condition A), Rt: 3.41 min (HPLC purity: 98.0%).

reactant | N,O-dimethylhydroxylamine hydrochloride | 25.6 mmol, 2.5 g | Cl.CNOC
reactant | 4-(trifluoromethyl)benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 4-(trifluoromethyl)benzoic acid | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | pyridine | 51.26 mmol, 4.06 g | N1=CC=CC=C1 | C5H5N
solvent | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-4-(trifluoromethyl)benzamide | 4.88 g, 90% | CON(C(C1=CC=C(C=C1)C(F)(F)F)=O)C | C10H10F3NO2
